US04145350
p-Bromotoluene (51 g), p-cresol (33 g) and potassium hydroxide (18.5 g) were mechanically stirred on a steam bath for 30 min., then heated at 190° C. for 1 hr. Copper bronze (2.0 g) was added and the heating continued for a further 1 hr. at 190° C., then 220° to 230° C. for 2.5 hr. After cooling, the residue was extracted into chloroform, filtered, and the extract washed with water, dried, evaporated and crystallised from ethanol to yield 4,4'-dimethyldiphenyl ether, m.p. 49°-50° C.

reactant | p-Bromotoluene | 51 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | p-cresol | 33 g | C1=CC(=CC=C1O)C | C7H8O
reactant | potassium hydroxide | 18.5 g | [OH-].[K+]
catalyst | Copper bronze | 2.0 g | [Cu] | Cu
product | 4,4'-dimethyldiphenyl ether | CC1=CC=C(C=C1)OC2=CC=C(C=C2)C | C14H14O
